US08426402B2
1-Methyl-4-nitro-1H-pyrrole-2-carboxylic acid
Methyl 1-methyl-4-nitro-1H-pyrrole-2-carboxylate (5.0 g, 27.17 mmol) in 120 ml of 1:1 THF/H2O was added 8 g of NaOH in 30 ml of water. The mixture was stirred overnight, concentrated, diluted with water, extracted with EtAc/Hexane (1:1). The aqueous solution was adjusted to pH 3˜4 with 20% H3PO4 and extracted with EtAc (4×60 ml). The organic solutions were combined, dried over MgSO4, filtered, evaporated and crystallized with ethanol/EtAc/Hexane to afford 4.06 g (88%) of the title product. 1H NMR (DMSO) 13.12 (s, 1H), 8.21 (s, 1H), 7.25 (s, 1H), 3.91 (s, 3H); 13C NMR 160.97, 134.01, 129.16, 123.81, 111.38, 37.47; MS m/z− 169.1 (M−H).

reactant | Methyl 1-methyl-4-nitro-1H-pyrrole-2-carboxylate | 27.17 mmol, 5.0 g | CN1C(=CC(=C1)[N+](=O)[O-])C(=O)OC | C7H8N2O4
reactant | NaOH | 8 g | [OH-].[Na+]
solvent | THF H2O | 120 ml | C1CCOC1.O
solvent | water | 30 ml | O | H2O
product | 1-Methyl-4-nitro-1H-pyrrole-2-carboxylic acid | 4.06 g, 88% | CN1C(=CC(=C1)[N+](=O)[O-])C(=O)O | C6H6N2O4
